### PR TITLE
[Merged by Bors] - feat: add `HasFTaylorSeriesUpToOn.congr_series`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 1]
```diff
@@ -146,6 +146,17 @@ theorem HasFTaylorSeriesUpToOn.congr (h : HasFTaylorSeriesUpToOn n f p s)
   rw [h₁ x hx]
   exact h.zero_eq x hx
 
+theorem HasFTaylorSeriesUpToOn.congr_series {q} (hp : HasFTaylorSeriesUpToOn n f p s)
+    (hpq : ∀ m : ℕ, m ≤ n → EqOn (p · m) (q · m) s) :
+    HasFTaylorSeriesUpToOn n f q s where
+  zero_eq x hx := by simp only [← (hpq 0 (zero_le n) hx), hp.zero_eq x hx]
+  fderivWithin m hm x hx := by
+    refine ((hp.fderivWithin m hm x hx).congr' ?_ hx).congr_fderiv ?_
+    · exact (hpq m hm.le).symm
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean:155]: You could inline this proof term. Up to you.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
